US08207213B2
Ethyl(4-amino-2-fluorophenyl)acetate
Ethyl phenylmethyl(2-fluoro-4-nitrophenyl)propanedioate (3.86 g, 10.6 mmol) dissolved in ethanol, was treated with ammonium formate (6.7 g, 10.6 mmol) and palladium on carbon 10% paste (380 mg) was added under argon. The reaction mixture was refluxed for 3 hours, cooled and filtered. Evaporated and purified by chromatography on silica gel eluting with ethyl acetate/hexane (1:1) to give the title compound as a yellow oil (1.26 g). LC/MS: Rt=2.10, [MH]+ 198.

reactant | Ethyl phenylmethyl(2-fluoro-4-nitrophenyl)propanedioate | 10.6 mmol, 3.86 g | C1(=CC=CC=C1)CC(C(=O)OCC)(C(=O)[O-])C1=C(C=C(C=C1)[N+](=O)[O-])F
reactant | ammonium formate | 10.6 mmol, 6.7 g | C(=O)[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | Ethyl(4-amino-2-fluorophenyl)acetate | 1.26 g | C(C)OC(CC1=C(C=C(C=C1)N)F)=O | C10H12FNO2
